US08278295B2
Preparation of tert-butyl 3-[(4,6-dimethylpyrimidin-2-yl)oxy]azetidine-1-carboxylate
Compound P24 was prepared according to the general procedure described in the preparation of P21, except that 2-chloro-4,6-dimethylpyrimidine was used in place of 2-bromopyridine, to afford P24. LCMS (ESI) m/z 280.3 (M+1). 1H NMR (400 MHz, CDCl3) δ 1.39 (s, 9H), 2.34 (s, 6H), 3.96 (m, 2H), 4.25 (m, 2H), 5.26 (m, 1H), 6.66 (s, 1H). Compound P24 was deprotected with trifluoroacetic acid as described for tert-butyl 3-hydroxyazetidine-1-carboxylate in the preparation of C19, Example 3 before being used in the coupling step.

reactant | 2-chloro-4,6-dimethylpyrimidine | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-hydroxyazetidine-1-carboxylate | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
product | tert-butyl 3-[(4,6-dimethylpyrimidin-2-yl)oxy]azetidine-1-carboxylate | CC1=NC(=NC(=C1)C)OC1CN(C1)C(=O)OC(C)(C)C | C14H21N3O3
